data/mechanisms/records/IMS9-EQ9.25c.json
{"mechanism_id": "IMS9-EQ9.25c", "species": [{"species_id": "ethylhexanal_molecular_ion", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:2]([CH2:8][CH2:9][1H:11])[CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethene_neutral", "mapped_smiles": "[CH2:8]=[CH2:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "distonic_hexanal_enol_mz100", "mapped_smiles": "[CH3:6][CH2:5][CH2:4][CH2:3][CH:2][CH:1]=[O+:7][1H:11]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "hydroxyallyl_cation_mz57", "mapped_smiles": "[CH2:3]=[CH:2][CH:1]=[O+:7][1H:11]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "propyl_radical", "mapped_smiles": "[CH2:4][CH2:5][CH3:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylhexanal_molecular_ion"]}, {"state_id": "state_mz100", "species_ids": ["distonic_hexanal_enol_mz100", "ethene_neutral"]}, {"state_id": "state_mz57", "species_ids": ["hydroxyallyl_cation_mz57", "propyl_radical", "ethene_neutral"]}], "steps": [{"step_id": "step_mclafferty_ethene_loss", "from_state": "state_precursor", "to_state": "state_mz100", "step_class": "mclafferty_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "bond", "atom_maps": [7, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "bond", "atom_maps": [8, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [8, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_propyl_loss", "from_state": "state_mz100", "to_state": "state_mz57", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_mclafferty", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_ethene_loss", "support_type": "textbook_proposed", "locator": {"page": 248, "equation": "9.25", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (middle arrow: 'rH', 'alpha', '- C2H4')"}, "confidence": 0.65, "curator_note": "Substrate as drawn: the 2-ethylhexanal molecular ion, labelled 'm/z 128' under the structure. The skeleton is printed as C2H5-CH(H)-CH2-CH(C2H5)-CHO with the gamma hydrogen on C4 drawn EXPLICITLY, an aldehyde H on C1, and '+.' printed above the carbonyl oxygen. LOCALIZATION (convention B): the charge and odd electron are written on the oxygen exactly where the page prints them, [CH:1]=[O+:7], not carried only in the JSON fields. Middle channel. The book draws ONE arrow carrying THREE labels -- 'rH' above, then 'alpha' and '- C2H4' -- straight to the structure it labels 'm/z 100'; no intermediate is drawn and Book draws 0 arc(s) for it, so all five moves are curator-supplied. WHICH HYDROGEN, and why this is not the C4 gamma-H: the printed m/z 100 product is a STRAIGHT six-carbon chain, C2H5-CH2-CH2-CH(•)-CH= O(+)H, with the radical dot alpha to the carbonyl. That structure forces the reading: the migrating hydrogen is the gamma' H of the ETHYL BRANCH (map 11, on C9, which is gamma to the carbonyl by the path C1-C2-C8-C9), and the branch then leaves as ethylene by beta-cleavage of the C2-C8 bond -- i.e. the three printed labels are one complete McLafferty rearrangement running on the ethyl branch rather than on the main chain. MASS BOOKKEEPING that settles it: C8H16O (16 H) -> C6H12O (12 H) + C2H4 (4 H). Taking the O-H hydrogen from C4 instead would leave C4 with one H and give C6H11O+, which is not 100 and not what is drawn. The C4 gamma-H drawn on the molecular ion belongs to the OTHER channel (IMS9-EQ9.25b) and is therefore left implicit in this record. MS CONTEXT: this page prints no ionisation conditions, so 70 eV EI is the corpus house default and is disclosed here rather than read off the page (the same treatment as IMS9-EQ9.19a/b and IMS8-EQ8.114). Figure 9.8 on printed p247 is the 2-ethylhexanal spectrum and would supply abundances, but it is NOT on this page and the scheme itself prints no percentage, so convention F forbids importing an intensity: every peak_assignment here carries status 'proposed' with no relative_intensity."}, {"evidence_id": "evidence_step_alpha_propyl", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_propyl_loss", "support_type": "textbook_proposed", "locator": {"page": 248, "equation": "9.25", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones ('alpha' arrow from m/z 100)"}, "confidence": 0.75, "curator_note": "Arrow labelled 'alpha' from m/z 100 to m/z 57. The radical on C2 drives cleavage of the C3-C4 bond with formation of the C2=C3 pi bond, expelling the propyl radical C3H7. (43) and giving the same C3H5O+ ion (m/z 57) that the other branch reaches. Book draws 2 arc(s), both on the m/z 100 structure: a fishhook whose tail is on the C3-C4 bond and whose head points down into the forming C2=C3 region, and a fishhook from the printed radical dot below C2 curving up into that same region. Move <3>, carrying the second C3-C4 electron away with the propyl radical, is implicit (not drawn)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_100", "species_id": "distonic_hexanal_enol_mz100", "step_id": "step_mclafferty_ethene_loss", "observed_mz": 100.0883, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}, {"peak_id": "peak_57_oxygenated", "species_id": "hydroxyallyl_cation_mz57", "step_id": "step_alpha_propyl_loss", "observed_mz": 57.0335, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
